US07902400B2
To a mixture of 5 ml of THF and 0.30 g of 3,5-dimethoxy-4-(2-propynyloxy)benzoyl chloride were added 0.15 g of 1-(cyclopentyl)methylamine and 0.21 g of triethylamine in order at room temperature. The mixture obtained was stirred at room temperature for 1 hour. Then, ethyl acetate was added to the reaction mixture and the mixture was filtered through Celite. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.13 g of N-cyclopentylmethyl-3,5-dimethoxy-(2-propynyloxy)benzamide (hereinafter, described as the compound 30 of the present invention) represented by the formula:

reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | 3,5-dimethoxy-4-(2-propynyloxy)benzoyl chloride | 0.30 g | COC=1C=C(C(=O)Cl)C=C(C1OCC#C)OC | C12H11ClO4
reactant | 1-(cyclopentyl)methylamine | 0.15 g | C1(CCCC1)CN | C6H13N
reactant | triethylamine | 0.21 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-cyclopentylmethyl-3,5-dimethoxy-(2-propynyloxy)benzamide | 0.13 g | C1(CCCC1)CNC(C1=C(C(=CC(=C1)OC)OC)OCC#C)=O | C18H23NO4
